US05073550
To a solution, cooled to 0° C., of 16.5 g of 2,2-dimethyl-5-(methylsulphinyl)-1,3-benzodioxol and 6.2 g of pyridine in 230 ml of methylene chloride, there were added in succession 5.43 g of bromine and 12.1 g of N-bromosuccin-imide. The reaction mixture was stirred at 0° C. for 3 hours and then at 20° C. for a further 12 hours. The orange colored solution was cooled to 0° C., treated with 40 ml of 1M aqueous sodium sulphite solution and the pH of the mixture was adjusted to 7 by the addition of 17% aqueous sodium carbonate solution. After stirring for 10 minutes, the phases were separated. The organic phase was washed in succession with 50 ml of 1N aqueous hydrochloric acid, 50 ml of 5% sodium hydrogen carbonate solution and 3 times with 100 ml of water each time, dried over sodium sulphate and evaporated in a vacuum. The residue was chromatographed on silica gel, with elution being carried out with ethyl acetate/hexane (1:2, v/v). After crystallization from acetone/water, there was obtained 5-[(bromomethyl)-sulphinyl]-1,3-benzodioxol as white crystals having a melting point of 88°-89° C.

reactant | 2,2-dimethyl-5-(methylsulphinyl)-1,3-benzodioxol | 16.5 g | CC1(OC2=C(O1)C=CC(=C2)S(=O)C)C | C10H12O3S
reactant | bromine | 5.43 g | BrBr | Br2
reactant | N-bromosuccin-imide | 12.1 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | sodium sulphite | 1M, 40 ml | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylene chloride | 230 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 6.2 g | N1=CC=CC=C1 | C5H5N
product | 5-[(bromomethyl)-sulphinyl]-1,3-benzodioxol | BrCS(=O)C1=CC2=C(OCO2)C=C1 | C8H7BrO3S
